US09062055B2
Step 1. 4-Chloro-N-methoxy-N-methyl-1H-indole-2-carboxamide
A mixture of 4-chloro-1H-indole-2-carboxylic acid (from Ryan Scientific, 1.0 g, 5.1 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (2.9 g, 7.7 mmol) and triethylamine (3.6 mL, 26 mmol) in N,N-dimethylformamide (15 mL) was stirred at room temperature for 10 minutes. N,O-Dimethylhydroxylamine hydrochloride (0.75 g, 7.7 mmol) was added and the resulting suspension was stirred at room temperature overnight. The mixture was quenched with water and then extracted with EtOAc. The combined organic layers were dried over MgSO4, concentrated and purified on silica gel (eluting with 0-35% EtOAc in hexane) to give the desired product (0.35 g, 29%). LCMS calculated for C11H12ClN2O2(M+H)+: m/z=239.1. Found: 239.1.

reactant | 4-chloro-1H-indole-2-carboxylic acid | 5.1 mmol, 1.0 g | ClC1=C2C=C(NC2=CC=C1)C(=O)O | C9H6ClNO2
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 7.7 mmol, 2.9 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 26 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-Dimethylhydroxylamine hydrochloride | 7.7 mmol, 0.75 g | Cl.CNOC
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-N-methoxy-N-methyl-1H-indole-2-carboxamide | 0.35 g, 29% | ClC1=C2C=C(NC2=CC=C1)C(=O)N(C)OC | C11H11ClN2O2
